US08309721B2
0.95 g of potassium carbonate and 4.62 g of 4-aminotetrahydropyran are successively added to a solution of 1.06 g of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-fluorobenzoate, obtained in stage 1 of Example 49, in 8 ml of dimethyl sulphoxide. The reaction mixture is heated at 90° C. for 3 hours in a microwave, and then diluted with distilled water. The aqueous phase is washed twice with ethyl acetate and the combined organic phases are washed with water and a saturated solution of sodium chloride, dried over magnesium sulphate and filtered. The residue is purified by silica gel chromatography, elution being carried out with a mixture of cyclohexane and ethyl acetate (85/15 by volume), so as to give 0.5 g of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-(tetrahydro-2H-pyran-4-ylamino)benzoate in the form of a white foam, the characteristics of which are the following:

reactant | potassium carbonate | 0.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-aminotetrahydropyran | 4.62 g | NC1CCOCC1 | C5H11NO
reactant | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-fluorobenzoate | 1.06 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)F | C29H22FN3O2
solvent | dimethyl sulphoxide | 8 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-(tetrahydro-2H-pyran-4-ylamino)benzoate | 0.5 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC1CCOCC1 | C34H32N4O3
